US07335660B2
2-{(1S)-6-[(Diphenylmethylene)amino]-3,4-dihydro-1H-2-benzopyran-1-yl}ethyl methanesulfonate was coupled with (3R)-1-(6-fluoro-1-naphthyl)-3-methylpiperazine, as described for Example 1b), to yield (1S)-N-(diphenylmethylene)-1-{2-[(2R)-4-(6-fluoro-1-naphthyl)-2-methylpiperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-amine.

reactant | 2-{(1S)-6-[(Diphenylmethylene)amino]-3,4-dihydro-1H-2-benzopyran-1-yl}ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)N=C(C2=CC=CC=C2)C2=CC=CC=C2 | C25H25NO4S
reactant | (3R)-1-(6-fluoro-1-naphthyl)-3-methylpiperazine | FC=1C=C2C=CC=C(C2=CC1)N1C[C@H](NCC1)C | C15H17FN2
product | (1S)-N-(diphenylmethylene)-1-{2-[(2R)-4-(6-fluoro-1-naphthyl)-2-methylpiperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-amine | C1(=CC=CC=C1)C(=NC=1C=CC2=C(CCO[C@H]2CCN2[C@@H](CN(CC2)C2=CC=CC3=CC(=CC=C23)F)C)C1)C1=CC=CC=C1 | C39H38FN3O
